US09029544B2
(S)—((S)-5-(tert-butyldimethylsilyloxy)-2-cyclopentyl-4-iodo-7,7-dimethyl-5,6,7,8-tetrahydroquinolin-3-yl)(4-fluorophenyl)methanol
Obtained by starting from (S)-5-(tert-butyldimethylsilyloxy)-2-cyclopentyl-4-iodo-7,7-dimethyl-5,6,7,8-tetrahydroquinoline-3-carbaldehyde and 4-fluorophenylmagnesium bromide.

reactant | (S)-5-(tert-butyldimethylsilyloxy)-2-cyclopentyl-4-iodo-7,7-dimethyl-5,6,7,8-tetrahydroquinoline-3-carbaldehyde | [Si](C)(C)(C(C)(C)C)O[C@@H]1C=2C(=C(C(=NC2CC(C1)(C)C)C1CCCC1)C=O)I | C23H36INO2Si
reactant | 4-fluorophenylmagnesium bromide | FC1=CC=C(C=C1)[Mg]Br
product | (S)—((S)-5-(tert-butyldimethylsilyloxy)-2-cyclopentyl-4-iodo-7,7-dimethyl-5,6,7,8-tetrahydroquinolin-3-yl)(4-fluorophenyl)methanol | [Si](C)(C)(C(C)(C)C)O[C@@H]1C=2C(=C(C(=NC2CC(C1)(C)C)C1CCCC1)[C@@H](O)C1=CC=C(C=C1)F)I | C29H41FINO2Si
